US07173033B2
A mixture of (6-chloropyridazin-3-yl)hydrazine, 3-dimethylaminobenzoic acid, WSCD hydrochloride and THF was stirred at room temperature for 2 hours. The reaction solution was combined with water, and the precipitate was collected by filtration, washed with water and isopropyl ether to obtain N′-(6-chloropyridazin-3-yl)-3-dimethylaminobenzohydrazide. To this, ethylene glycol was added and the mixture was stirred at 160° C. for 4 hours. After allowing to cool to room temperature, followed by purification by a standard method, 6-chloro-3-(3-dimethylaminophenyl)-1,2,4-triazolo[4,3-b]pyridazine was obtained. Dat (F:274).

reactant | (6-chloropyridazin-3-yl)hydrazine | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | 3-dimethylaminobenzoic acid | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | hydrochloride | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N′-(6-chloropyridazin-3-yl)-3-dimethylaminobenzohydrazide | ClC1=CC=C(N=N1)NNC(C1=CC(=CC=C1)N(C)C)=O | C13H14ClN5O
